US05130318
A mixture of methyl 3-aminocrotonate (5 g) and 5-(1-hydroxypropylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione (10 g) (obtained as described in J. Org. Chem., 1978, 43, 2087) was heated at 120° C. for 1 hour. The residue was cooled to ambient temperature and treated with a mixture of ether and hexane (1:6 v/v; 35 ml) and allowed to stand for 18 hours. The solvent was removed by decanting and the insoluble residue purified by flash chromatography, eluting with methanol/dichloromethane (1:9 v/v) to give methyl 1,4-dihydro-6-ethyl-2-methyl-4-oxopyridine-3-carboxylate (1 g), as a yellow solid, m.p. 176°-180° C.; NMR (CDCl3): 1.2(t,3H); 2.45(s,3H), 2.65(q,2H), 3.8(s,3H), 6.3(s,1H); mass spectrum (chemical ionisation, ammonia): 196(M+H)+.

reactant | methyl 3-aminocrotonate | 5 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | 5-(1-hydroxypropylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 10 g | OC(CC)=C1C(OC(OC1=O)(C)C)=O | C9H12O5
reactant | ether | CCOCC | C4H10O
solvent | hexane | 35 ml | CCCCCC | C6H14
product | methyl 1,4-dihydro-6-ethyl-2-methyl-4-oxopyridine-3-carboxylate | 1 g | C(C)C1=CC(C(=C(N1)C)C(=O)OC)=O | C10H13NO3
